US07825137B2
To a stirred solution of 3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-ylamine (15.22 g, 35.64 mmol) and 4-(4-bromo-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (14.12 g, 42.77 mmol) in DME (143 mL) was added a solution of Na2CO3 (11.33 g, 10692 mmol) in water (36 mL). The solution was degassed and charged with nitrogen three times. To the solution was added Pd(PPh3)2Cl2 (1.25 mg, 1.782 mmol). The reaction solution was degassed and charged with nitrogen again three times. The reaction solution was stirred at 87° C. oil bath for about 16 hours (or until consumption of the borane pinacol ester), cooled to ambient temperature and diluted with EtOAc (600 mL). The reaction mixture was filtered through a pad of celite and washed with EtOAc. The EtOAc solution was washed with brine, dried over Na2SO4, and concentrated. The crude product was purified on a silica gel column eluting with EtOAc/Hexane system (Biotage 90+Column: equilibrium 600 mL 100% Hexanes, segment 1: 2250 mL 50% EtOAc/Hexanes Linear, segment 2: 4500 mL 75% EtOAc/Hexanes Linear, segment 3: 4500 mL 100% EtOAc) to afford 4-(4-{6-amino-5-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (11.8 g, 60% yield, ˜95% purity) with a Rf of 0.15 (50% EtOAc/Hexanes). MS m/e 550 (M+1)+.

reactant | 3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-ylamine | 35.64 mmol, 15.22 g | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C19H22BCl2FN2O3
reactant | 4-(4-bromo-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 42.77 mmol, 14.12 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)Br | C13H20BrN3O2
reactant | Na2CO3 | 10692 mmol, 11.33 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 143 mL | COCCOC | C4H10O2
solvent | water | 36 mL | O | H2O
catalyst | Pd(PPh3)2Cl2 | 1.782 mmol, 1.25 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(4-{6-amino-5-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 11.8 g, 60% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C=1C=NC(=C(C1)O[C@H](C)C1=C(C(=CC=C1Cl)F)Cl)N | C26H30Cl2FN5O3
